US09062070B2
3-Cyano-2,4-difluorophenyl trifluoromethanesulfonate (5.20 g, 18.1 mmol), potassium vinyl trifluoroborate (4.85 g, 36.2 mmol), PdCl2(dppf)-CH2Cl2 Adduct (0.662 g, 0.905 mmol), and TEA (5.05 mL, 36.2 mmol) were added to 75 mL of ethanol. The reaction mixture was degassed then heated at reflux for 4 h. LC-MS analysis confirmed product peak. The reaction mixture was diluted with ethyl acetate, washed twice with brine, dried, and evaporated to dryness. The crude material was then purified by MPLC chromatography through a 330 g Redi-sep column eluting with 10% EtOAc/Hexane solvent system to yield 3-ethenyl-2,6-difluorobenzonitrile.

reactant | 3-Cyano-2,4-difluorophenyl trifluoromethanesulfonate | 18.1 mmol, 5.20 g | FC(S(=O)(=O)OC1=C(C(=C(C=C1)F)C#N)F)(F)F | C8H2F5NO3S
reactant | ethanol | 75 mL | C(C)O | C2H6O
catalyst | PdCl2(dppf) CH2Cl2 | 0.905 mmol, 0.662 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-ethenyl-2,6-difluorobenzonitrile | C(=C)C=1C(=C(C#N)C(=CC1)F)F | C9H5F2N
